US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxycarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
A solution of (3S)-4-(((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid (0.74 g, 1.36 mmol), EDC.HCl (0.31 g, 1.62 mmol), HOAt (185 mg, 1.36 mmol) and DIPEA (210 mg, 1.62 mmol) in DCM (20 mL) was stirred at −10° C. for 30 minutes. Then to the mixture was added a solution of O-(tert-butyldimethylsilyl)hydroxylamine (0.2 g, 1.36 mmol) in DCM (2.0 mL) slowly at −10° C. Then the mixture was warmed to 25° C. and stirred for 12 hours. The mixture was concentrated in vacuo and the residue was dissolved in a solution of HCl in EtOAc (6 mol/L, 10 mL), then the mixture was stirred at 25° C. for 2 hours. The reaction mixture was diluted with EtOAc (200 mL) and water (100 mL), and the mixture was adjusted to pH 7 with aqueous ammonia. The organic layer was dried over Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=30/1) to give the title compound as a yellow solid (0.05 g, 6.5%). The compound was characterized by the following spectroscopic data:

reactant | ((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 1.36 mmol, 0.74 g | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
reactant | EDC.HCl | 1.62 mmol, 0.31 g | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 1.36 mmol, 185 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 1.62 mmol, 210 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 1.36 mmol, 0.2 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxycarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.05 g, 6.5% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@@H](COCC1)C(NO)=O)C=1SC=CN1 | C22H23BrFN5O5S
